US05135932
6-[4-[2-[3-(3,4-Dihydro-2-hydroxy-quinolin-5-yloxy)-2-hydroxypropylamino]ethoxy]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-(3,4-dihydro-2-hydroxy-quinolin-5-yloxy)-2,3-epoxypropane and 6-[4-(2-aminoethoxy)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone.

reactant | 1-(3,4-dihydro-2-hydroxy-quinolin-5-yloxy)-2,3-epoxypropane | OC1=NC2=CC=CC(=C2CC1)OCC1CO1 | C12H13NO3
reactant | 6-[4-(2-aminoethoxy)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | NCCOC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C13H17N3O2
product | 6-[4-[2-[3-(3,4-Dihydro-2-hydroxy-quinolin-5-yloxy)-2-hydroxypropylamino]ethoxy]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | OC1=NC2=CC=CC(=C2CC1)OCC(CNCCOC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)O | C25H30N4O5
